US06878721B1
Acetic acid (R)-1-(4-benzyloxy-3-nitro-phenyl)-2-[benzyl-(2,5,6-trimethyl-indan-2-yl)-amino]-ethyl ester
To a solution of (R)-1-(4-Benzyloxy-3-nitro-phenyl)-2-[benzyl-(2,5,6-trimethyl-indan-2-yl)-amino]-ethanol in pyridine is added acetic anhydride and the mixture stirred for 18 hours. The reaction mixture is quenched with water and after addition of ethyl acetate washed twice with aqueous KHSO4 solution, twice with aqueous NaHCO3 and once with brine. The product is purified by chromatography (silica, ethyl acetate/hexane 1:4). ES+ MS m/e 579 (MH+).

reactant | (R)-1-(4-Benzyloxy-3-nitro-phenyl)-2-[benzyl-(2,5,6-trimethyl-indan-2-yl)-amino]-ethanol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CN(C1(CC2=CC(=C(C=C2C1)C)C)C)CC1=CC=CC=C1)O)[N+](=O)[O-] | C34H36N2O4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Acetic acid (R)-1-(4-benzyloxy-3-nitro-phenyl)-2-[benzyl-(2,5,6-trimethyl-indan-2-yl)-amino]-ethyl ester | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CN(C1(CC2=CC(=C(C=C2C1)C)C)C)CC1=CC=CC=C1)OC(C)=O)[N+](=O)[O-] | C36H38N2O5
